US09255089B2
2,3-Diamino-N-cyclopentyl-5-(3,5-dimethylisoxazol-4-yl)benzenesulfonamide (58 mg, 0.17 mmol) was dissolved in DMF (2 mL). To the solution was added CDI (360 mg, 4 mmol) and TEA (1 mL). The reaction was heated at 150° C. in microwave for 10 h. The solvent was evaporated and the residue was purified by preparative HPLC (0-100% CH3CN/H2O) to afford N-cyclopentyl-6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-sulfonamide.

reactant | 2,3-Diamino-N-cyclopentyl-5-(3,5-dimethylisoxazol-4-yl)benzenesulfonamide | 0.17 mmol, 58 mg | NC1=C(C=C(C=C1N)C=1C(=NOC1C)C)S(=O)(=O)NC1CCCC1 | C16H22N4O3S
reactant | CDI | 4 mmol, 360 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-cyclopentyl-6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-sulfonamide | C1(CCCC1)NS(=O)(=O)C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C | C17H20N4O4S
